US03950320
A mixture of 10 g of crystalline antibiotic X-537A and 5 g of hydroxylamine hydrochloride in 50 ml ethanol containing 5 ml pyridine was heated under reflux for 60 hours. The solution was evaporated to dryness and 5 ml water added. The solid product was triturated and filtered, then recrystallized from aqueous ethanol to give (-)-3-methyl-6-(7-ethyl-4-hydroxy-6-hydroxyimino-3,5-dimethyl-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydro-pyranyl)-2-tetrahydrofuryl]heptyl) salicylic acid, hydroxylammonium salt; m.p. 168°-170°, [α]D25 -12.34° (1%, DMSO).

reactant | X-537A | 10 g | CC[C@H]([C@@H]1[C@H](C[C@@](O1)(CC)[C@H]2CC[C@@]([C@@H](O2)C)(CC)O)C)C(=O)[C@@H](C)[C@H]([C@H](C)CCC3=C(C(=C(C=C3)C)O)C(=O)O)O | C34H54O8
reactant | hydroxylamine hydrochloride | 5 g | Cl.NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (-)-3-methyl-6-(7-ethyl-4-hydroxy-6-hydroxyimino-3,5-dimethyl-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydro-pyranyl)-2-tetrahydrofuryl]heptyl) salicylic acid, hydroxylammonium salt | O[NH3+].CC1=C(C(C(=O)[O-])=C(C=C1)CCC(C(C(C(C(C1OC(CC1C)(C1OC(C(CC1)(O)CC)C)CC)CC)=NO)C)O)C)O | InChI=1S/C34H55NO8.H4NO/c1-9-25(31-21(6)18-34(11-3,43-31)26-16-17-33(40,10-2)23(8)42-26)28(35-41)22(7)29(36)19(4)12-14-24-15-13-20(5)30(37)27(24)32(38)39;1-2/h13,15,19,21-23,25-26,29,31,36-37,40-41H,9-12,14,16-18H2,1-8H3,(H,38,39);2H,1H3/q;+1/p-1
